US08242145B2
Step 2: 2-{4-Methoxy-3-[2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-propionic acid ethyl ester
To {4-methoxy-3-[2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid ethyl ester (0.242 g, 0.45 mmol) and iodomethane (0.03 mL, 0.45 mmol) in THF (5 mL) at −78° C. was added sodium bis(trimethylsilyl)amide (1M in THF; 0.45 mL, 0.45 mmol). The reaction was stirred at −78° C. for 1 hour, and then at room temperature for 1 hour. The mixture was partitioned between H2O and EtOAc, and the aqueous layer was extracted with EtOAc. The combined organic layers were dried over MgSO4, filtered, and concentrated to give the desired product.

reactant | {4-methoxy-3-[2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid ethyl ester | 0.45 mmol, 0.242 g | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)=O | C29H28F3NO6
reactant | iodomethane | 0.45 mmol, 0.03 mL | IC | CH3I
reactant | sodium bis(trimethylsilyl)amide | 0.45 mmol, 1M, 0.45 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-{4-Methoxy-3-[2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-propionic acid ethyl ester | C(C)OC(C(C)C1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)=O | C30H30F3NO6
